US05374606
A solution of methyl 4-chloro-2-fluoro-3-methylsulphenylmethylbenzoate (11.4 g) in tetrahydrofuran was stirred, with addition of sodium methoxide (3.5 g). After 2 hours water was added and the mixture extracted with ether, dried (magnesium sulphate) and evaporated to give methyl 4-chloro-2-methoxy-3-methylsulphenylmethylbenzoate (10.1 g), NMR (CDCl3) 2.15 (s,3H), 3.9 (3s,8H), 7.15 (d,1H), 7.65 (d,1H).

reactant | methyl 4-chloro-2-fluoro-3-methylsulphenylmethylbenzoate | 11.4 g | ClC1=C(C(=C(C(=O)OC)C=C1)F)CSC | C10H10ClFO2S
reactant | sodium methoxide | 3.5 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-chloro-2-methoxy-3-methylsulphenylmethylbenzoate | 10.1 g | ClC1=C(C(=C(C(=O)OC)C=C1)OC)CSC | C11H13ClO3S
